US07960552B2
To a stirring suspension of 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid (4.12 g, 7.73 mmol) in methanol (100 mL) was added 1 N sodium hydroxide (7.73 mL, 7.73 mmol). The mixture was stirred for approximately 1 hour and then concentrated. Ether was added followed by a little water. After stirring the solid turned into a paste. The solvent was decanted and the paste triturated with ether and then dried on a rotary evaporator at 35° C. under vacuum for approximately 1.5 hours to afford sodium 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (4.24 g, 98%). 1H-NMR (400 MHz, DMSO-d6) δ 8.28-8.22 (m, 2H), 8.09-7.96 (m, 3H), 7.68 (d, J=9 Hz, 2H), 7.63-7.51 (m, 3H), 6.90 (d, J=9 Hz, 2H), 4.87 (s, 2H), 3.46 (septet, J=7 Hz, 1H), 1.33 (d, J=7 Hz, 6H). LRMS (APCI) C29H21Cl2N2O4Na calculated: 533 (M+H)+, found: 533 (M+H)+.

reactant | 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid | 7.73 mmol, 4.12 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O)C(C)C | C29H22Cl2N2O4
reactant | sodium hydroxide | 7.73 mmol, 1 N, 7.73 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | sodium 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 4.24 g, 98% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)[O-])C(C)C.[Na+] | InChI=1S/C29H22Cl2N2O4.Na/c1-16(2)28-21(27(33-37-28)26-22(30)4-3-5-23(26)31)15-36-20-10-6-17(7-11-20)18-8-12-24-19(14-18)9-13-25(32-24)29(34)35;/h3-14,16H,15H2,1-2H3,(H,34,35);/q;+1/p-1
